US08357711B2
3-[(1,3-Thiazol-2-ylamino)sulfonyl]-N-[4-(trifluoromethyl)benzyl]benzamide
To a solution of 3-{[(2,4-Dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid (Preparation 23, 90 mg, 0.207 mmol, 1 eq) THF (2 ml) was added Et3N (0.04 ml, 0.311 mmol, 1.5 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI.HCl, 52 mg, 0.27 mmol, 1.3 eq) and 1-hydroxybenzotriazole hydrate (HOBt, 28 mg, 0.207 mmol, 1 eq) at 0° C. and the reaction mixture stirred for 10 minutes before the addition of 4-(trifluoromethyl)benzylamine (0.032 ml, 0.228 mmol, 1.1 eq). The reaction mixture was stirred at room temperature for 18 hours. The mixture was extracted from water into DCM, dried over magnesium sulphate, filtered and evaporated in vacuo. The residue was dissolved in 4M HCl in dioxane (2 ml) and the reaction mixture stirred at room temperature for 18 hours. The resulting precipitate was collected by filtration and washed with dioxane. The material was purified further by preparative HPLC to yield the title compound.

reactant | 3-{[(2,4-Dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid | 0.207 mmol, 90 mg, 1 eq | COC1=C(CN(S(=O)(=O)C=2C=C(C(=O)O)C=CC2)C=2SC=CN2)C=CC(=C1)OC | C19H18N2O6S2
reactant | Et3N | 0.311 mmol, 0.04 ml, 1.5 eq | CCN(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.27 mmol, 52 mg, 1.3 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.207 mmol, 28 mg, 1 eq | O.ON1N=NC2=C1C=CC=C2
reactant | 4-(trifluoromethyl)benzylamine | 0.228 mmol, 0.032 ml, 1.1 eq | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[(1,3-Thiazol-2-ylamino)sulfonyl]-N-[4-(trifluoromethyl)benzyl]benzamide | S1C(=NC=C1)NS(=O)(=O)C=1C=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=CC1 | C18H14F3N3O3S2
